US08217064B2
To a stirred solution of ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)-4-methylpentanoate (2.0 g, 5.9 mmol), in dry MeOH (50 mL) Pd(OH)2 (1.1 g) was added. The mixture was reduced under an atmosphere of H2 for 6 h at room temperature. The reaction mixture was filtered off through a pad of Celite™, washing with MeOH. The combined filtrates were concentrated under reduced pressure to yield ethyl 2-(4-amino-3-(cyclopropylmethoxy)phenyl)-4-methylpentanoate (1.69 g) as a thick liquid.

reactant | ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)-4-methylpentanoate | 5.9 mmol, 2.0 g | C1(CC1)COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)CC(C)C | C18H25NO5
solvent | MeOH | 50 mL, 1.1 g | CO | CH4O
product | ethyl 2-(4-amino-3-(cyclopropylmethoxy)phenyl)-4-methylpentanoate | 1.69 g | NC1=C(C=C(C=C1)C(C(=O)OCC)CC(C)C)OCC1CC1 | C18H27NO3
